US07262223B2
A cold solution (0° C.) of 4-bromobenzonitrile (1 g, 5.5 mmol) in ethanol (25 mL) was saturated with dry HCl(g). The mixture was then stirred at room temperature for 18 hours, after which FT-IR showed complete disappearance of the nitrile. The solution was concentrated to dryness, and further dried in vacuo. The ethyl 4-bromobenzimidate hydrochloride thus obtained was used in the synthesis of compounds 145, 146, 150, and 151.

reactant | 4-bromobenzonitrile | 5.5 mmol, 1 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | HCl | Cl | ClH
reactant | ethanol | 25 mL | C(C)O | C2H6O
product | ethyl 4-bromobenzimidate hydrochloride | Cl.BrC1=CC=C(C(OCC)=N)C=C1 | InChI=1S/C9H10BrNO.ClH/c1-2-12-9(11)7-3-5-8(10)6-4-7;/h3-6,11H,2H2,1H3;1H
